data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,948,"C=CC(=O)OC(C)([O-])[S+:1](CC)[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8788,"C[CH+:1]CBr.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,4890,"CCN1CCC23C=C(O)[CH:1]([OH+:2]C)CC2C1CC1=C3C(O)=C(OC)C=C1|((1, 2), 2)"
train,pmechdb_split_0,0,5735,"FC(F)(F)C1=CC2=C(C=C1)C=C[CH+:1][C:2]2(Br)[H:3].[Br-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,6985,"CC1CCC(CCOCC2=CC=CC=C2)OC1CC(C[CH:1]=[O+:2]C(CCO[Si](C(C)C)(C(C)C)C(C)C)C[C:3](C[Si](C)(C)C)=[CH2:4])O[B-](F)(F)F.CCOCC|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9064,"CC(=O)O[BH-](OC(C)=O)OC(C)=O.CC(=O)[O-].O=[N+]([O-])C1=CC=C(N2CC[N:1]([C:2]3([OH2+:3])CC4CC(C4)C3)CC2)C=C1.[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,527,"CC(C)N(C(OC1=[C:1]([H:2])C(F)=CC=C1)=[O+][Li-][N:3](C(C)C)C(C)C)C(C)C|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6391,"C[C:1](C)=[OH+:2].C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,602,"CC(=O)[O:1][H:2].NC1=C(C2C(=[NH:3])CCC3CCN(CCS(=O)C4=CC=CC=C4)C32)C=CC=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6745,"CP(C)(=O)[CH2:1][H:2].CS(=O)[CH2:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,861,"CON1C(=O)C2(C[CH:1]([C:2](=[N:3][N+:4]#N)[O-:5])C3COC2C(=O)C3)C2=C1C=CC=C2.[Cl-]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1884,"CC1=NCCC2=CC=C[CH+:1][C:2]21[H:3].O=P(Cl)(Cl)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,3285,"CC[O:1][Si-:2](C)(C)(C)F|((2, 1), 1)"
train,pmechdb_split_0,0,1202,"CC(C)=O.CC(C)CC1CCC2C3CC=C4CC([O+:1]([Al-]([O]C(C)C)([O]C(C)C)[O]C(C)C)[H:2])CCC4(C)C3CCC12C.CC(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7420,"C=CC[C+:1]1C=CC=C[C:2]1(C(C)CC1=CC=CC=C1)[H:3].[F-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,4043,"CO.[Na][O:1][C:2](CC1([CH:3]=[O:4])C=C(Cl)COC1)=[CH2:5]|(1, 2);((2, 5), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1697,"C1CCC2CCC[N:1]=C2C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2172,"CP(C)(C)=[O:1].[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7719,"C=[O+][Si:1](C)(C)C.C[O-:2]|(2, 1)"
train,pmechdb_split_0,0,526,"CC(CCCCN1C(=O)C2=C(N=CN2CC2=CC=CC=C2)N(C)C1=O)[OH:1].CCOC(=O)NN(C(=O)OCC)[P+:2](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])C1=CC=C([N+](=O)[O-])C=C1|(1, 2)"
train,pmechdb_split_0,0,5433,"C[Si](C)(C)OCC#[C:1][H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5849,"CC[N+]1(CC(=O)[O-:1])CC(=O)[O][Mg:2]1.O|(1, 2)"
train,pmechdb_split_0,0,4595,"C1=CC=C([CH:1]=[O:2])C=C1.CC(C)(C)O.CCO[C:3](=[CH:4]Cl)[O-:5]|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,466,"C1=CC=C([NH2:1])C=C1.C[CH+:2]C|(1, 2)"
train,pmechdb_split_0,0,6605,"CC[CH:1]=[O:2].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4383,"CC(C)C(=O)C(C1=CC=CC=C1)C(CC1=CC=CC=C1)(C(C)C)[O-:1].CC[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7528,"C[O-:1].O=C1CC[C:2](=[O:3])[CH:4]1[H:5]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,10099,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1CC(SC2=CC=CC=C2)C2(CCOCC2)[O+:1]1[H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,732,"COC1=CC(I)=C(CC[N+:1](C)=[CH:2][O][AlH-:3]([O]C(C)(C)C)[H:4])C=C1OC|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5196,"CC(=O)[CH:1]([H:2])[CH2:3][OH2+:4].O=S(=O)(O)[O-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,5852,"N.N#[C-:1].NC(N)[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7667,"CC1CC(C(OC2=CC=CC=C2)=[O+:1][Al-:2]([O]C2=C(C3=CC=CC=C3)C=CC=C2C2=CC=CC=C2)([O]C2=C(C3=CC=CC=C3)C=CC=C2C2=CC=CC=C2)[N](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F)C1O[Si]([Si](C)(C)C)([Si](C)(C)C)[Si](C)(C)C|((2, 1), 1)"
train,pmechdb_split_0,0,2949,"CCN(C(C)C)C(C)C.CCO[CH2:1][Cl:2].COC(=O)CC(C(C)CC=C(C)C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9924,"CC1=CO[CH:1]=[CH:2]1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1803,"CCC[OH+:1][B-:2](F)(F)F|((2, 1), 1)"
train,pmechdb_split_0,0,6955,"C[Si-:1](C)(C)(Cl)[I:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3356,"C[C:1](CCC[C:2](=[CH2:3])[O-:4])=[O:5]|(4, 2);((2, 3), 1);((1, 5), 5)"
train,pmechdb_split_0,0,4856,"CCOC(=O)C[CH2:1][Cl:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8290,"CC1(CC[C:1]([CH2:2][H:3])=[N+:4]2CCCC2C(=O)[O-])C(=O)CCC1=O.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,414,"CC(C)[O-].CCCCCC1CC[C:1]([H:2])([O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C)CC1|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,2205,"CCOC(=O)N(CC1=CC=CC=C1)C(C=[C+]C[Si:1](C)(C)C)C1=CC=CC=C1.C[CH2][Al-]([Cl])([Cl])[O:2]CC|(2, 1)"
train,pmechdb_split_0,0,2618,"CCO.CC[N:1]1C(C)=C(CCO)S[C:2]1=[C:3](O)C1=CC(OC)=C(OC)C(OC)=C1.CC[NH+](CC)CC.C[C:4](=[O:5])[CH:6]=[CH2:7].[Br-]|(1, 2);((2, 3), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,5589,"CC1(C)OC2C(OCC3=C(Br)C4=C(C=C3)OCO4)C=CC([OH:1])C2O1.O=S(=O)(O[S:2](=O)(C(F)(F)F)=[O:3])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9232,"C1CC[NH2+]C1.C1CC[NH:1]C1.COC1=C(C)C=C2CC(C)[C:2](=[O:3])CC2=C1|(1, 2);((2, 3), 3)"
